US04833270
5,6-Difluoro-1H-indole-2,3-dione
A 24.5 g portion of N-(3,4-difluorophenyl)-2-(hydroxyimino)acetamide was added portionwise with stirring to 95 ml of concentrated sulfuric acid with the temperature kept between 60° and 70° C. The temperature of the reaction mixture was then raised to 80° C. for 20 minutes followed by cooling to room temperature. The mixture was then poured onto crushed ice and the resulting solid collected, giving 21.3 g of the desired compound as brick red crystals, mp 218°-220° C.

reactant | N-(3,4-difluorophenyl)-2-(hydroxyimino)acetamide | FC=1C=C(C=CC1F)NC(C=NO)=O | C8H6F2N2O2
reactant | sulfuric acid | 95 ml | S(O)(O)(=O)=O | H2O4S
product | 5,6-Difluoro-1H-indole-2,3-dione | 21.3 g | FC=1C=C2C(C(NC2=CC1F)=O)=O | C8H3F2NO2
